### PR TITLE
chore: remove `Dyadic'`

### PR DESCRIPTION
**Pull request by plp127**
Remove `Dyadic'` in favor of `Dyadic`.

### CODE REVIEW

File: CombinatorialGames/Mathlib/Dyadic.lean [hunk 1]
```diff
@@ -76,351 +70,328 @@ theorem dvd_iff_le_of_mem_powers {m n : ℕ}
...
-@[simp, norm_cast] theorem one_le_val {x : Dyadic'} : 1 ≤ x.1 ↔ 1 ≤ x := .rfl
-@[simp, norm_cast] theorem val_lt_one {x : Dyadic'} : x.1 < 1 ↔ x < 1 := .rfl
-@[simp, norm_cast] theorem val_le_one {x : Dyadic'} : x.1 ≤ 1 ↔ x ≤ 1 := .rfl
-@[simp, norm_cast] theorem val_eq_one {x : Dyadic'} : x.1 = 1 ↔ x = 1 := val_eq_intCast
-@[simp, norm_cast] theorem one_eq_val {x : Dyadic'} : 1 = x.1 ↔ 1 = x := intCast_eq_val
-
-instance : Nontrivial Dyadic' where
+@[ext] theorem ext {x y : Dyadic} (h : x.toRat = y.toRat) : x = y := toRat_inj.1 h
+
+-- @[simp, norm_cast] theorem val_natCast (n : ℕ) : (n : Dyadic).toRat = n := toRat_natCast n
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/Dyadic.lean:105]: Where did this go?

File: CombinatorialGames/Mathlib/Dyadic.lean [hunk 2]
```diff
@@ -76,351 +70,328 @@ theorem dvd_iff_le_of_mem_powers {m n : ℕ}
...
+@[simp, norm_cast] theorem num_natCast (n : ℕ) : (n : Dyadic).num = n :=
+  congrArg Rat.num (toRat_natCast n)
+@[simp, norm_cast] theorem den_natCast (n : ℕ) : (n : Dyadic).den = 1 :=
+  congrArg Rat.den (toRat_natCast n)
+
+@[simp] theorem val_ofNat (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : Dyadic).toRat = n :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/Dyadic.lean:111]: This should probably be renamed `toRat_ofNat` or `coe_ofNat`.

File: CombinatorialGames/Mathlib/Dyadic.lean [hunk 3]
```diff
@@ -76,351 +70,328 @@ theorem dvd_iff_le_of_mem_powers {m n : ℕ}
...
+  rw [← toRat_natCast, toRat_inj]
+
+-- @[simp] theorem val_intCast (n : ℤ) : (n : Dyadic).toRat = n := toRat_intCast n
+-- @[simp] theorem mk_intCast {n : ℤ} (h : IsDyadic n) : (⟨n, h⟩ : Dyadic') = n := rfl
+@[simp] theorem num_intCast (n : ℤ) : (n : Dyadic).num = n :=
+  congrArg Rat.num (toRat_intCast n)
+@[simp] theorem den_intCast (n : ℤ) : (n : Dyadic).den = 1 :=
+  congrArg Rat.den (toRat_intCast n)
+
+@[simp, norm_cast] theorem intCast_lt_val {x : ℤ} {y : Dyadic} : x < y.toRat ↔ x < y := by
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/Dyadic.lean:139]: Can `norm_cast` solve any of these goals as is?

File: CombinatorialGames/Mathlib/Dyadic.lean [hunk 4]
```diff
@@ -76,351 +70,328 @@ theorem dvd_iff_le_of_mem_powers {m n : ℕ}
...
+  rw [← toRat_intCast, toRat_le_toRat_iff]
+@[simp, norm_cast] theorem val_eq_intCast {x : Dyadic} {y : ℤ} : x.toRat = y ↔ x = y := by
+  rw [← toRat_intCast, toRat_inj]
+@[simp, norm_cast] theorem intCast_eq_val {x : ℤ} {y : Dyadic} : x = y.toRat ↔ x = y := by
+  rw [← toRat_intCast, toRat_inj]
+
+instance : Inhabited Dyadic := ⟨0⟩
+
+-- why is the same attribute `@[coe]` used in `norm_cast` and also the pretty printer
+-- should we make `Dyadic.toRat` a coercion maybe?
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/Dyadic.lean:155]: I'd expect it to be! Can we perhaps add a `RatCast` instance?

File: CombinatorialGames/Mathlib/Dyadic.lean [hunk 5]
```diff
@@ -76,351 +70,328 @@ theorem dvd_iff_le_of_mem_powers {m n : ℕ}
...
+@[simp /-, norm_cast-/] theorem val_zero : (0 : Dyadic).toRat = 0 := rfl
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/Dyadic.lean:156]: How come `norm_cast` doesn't work here?

**Review by vihdzp — APPROVED** [review]
There's definitely improvements to be made, like registering a `RatCast Dyadic` instance and getting rid of some theorem redundancy. But this is a good starting point. We can clean up in a separate PR.

File: CombinatorialGames/Mathlib/Dyadic.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Mathlib/Dyadic.lean:105]: Duplicate of `Dyadic.toRat_natCast` so I got rid of it

File: CombinatorialGames/Mathlib/Dyadic.lean (hunk 4 above)
Comment (plp127) [reply CombinatorialGames/Mathlib/Dyadic.lean:155]: What would `Rat.cast 3⁻¹` be?

Comment (vihdzp) [reply CombinatorialGames/Mathlib/Dyadic.lean:155]: Oh yeah of course. We want a coercion *into* rationals, not *from* them.
